US06503949B1
Step C: Resin Bound 3-{4-[(4-bromophenylamino)methyl]benzoylamino}propionic Acid
The above resin bound 3-(4-formylbenzoylamino)propionic acid (50 mg) was treated with a solution of 4-bromoaniline (500 [mol) in a mixture of DMF (500 μL) and trimethylorthoformate (500 μL). Glacial acetic acid (100 μL) was added and the mixture was shaked for 1 hour at 25° C. Sodium cyanoborohydride (750 μmol) suspended in a mixture of DMF and trimethyl-orthoformate (1:1, 1 mL) was added and the mixture was vortexed at 25° C. for 16 hours followed by filtration and washing with a mixture of DMF and water (4:1, 2×1 mL) followed by 3×1 mL DMF and 2×1 mL dichloromethane to afford the desired product.

reactant | 3-(4-formylbenzoylamino)propionic acid | 50 mg | C(=O)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C11H11NO4
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 750 μmol | C(#N)[BH3-].[Na+]
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | trimethylorthoformate | 500 μL | COC(OC)OC | C4H10O3
solvent | trimethyl-orthoformate | 1 mL | COC(OC)OC | C4H10O3
product | 3-{4-[(4-bromophenylamino)methyl]benzoylamino}propionic Acid | BrC1=CC=C(C=C1)NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C17H17BrN2O3
